US08076486B2
2-(3-(2-fluoro-4-iodophenylamino)isonicotinoyl)-N-methylhydrazinecarboxamide
To a suspension of 3-[(2-fluoro-4-iodophenyl)amino]isonicotinohydrazide (200 mg; 0.54 mmol) in methanol (10 mL) was added (methylimino)(oxo)methane (61 mg; 1.07 mmol) (methyl Isocyanate). After few minutes the reaction mixture became homogeneous, and then an yellow colored solid, 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}-N-methylhydrazinecarboxamide (50 mg) was separated out. The filtrate upon concentration gave 158 mg which was also pure. (208 mg, 90%) MS m/z: 429 M+1

reactant | 3-[(2-fluoro-4-iodophenyl)amino]isonicotinohydrazide | 0.54 mmol, 200 mg | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | (methylimino)(oxo)methane | 1.07 mmol, 61 mg | CN=C=O | C2H3NO
solvent | methanol | 10 mL | CO | CH4O
product | 2-(3-(2-fluoro-4-iodophenylamino)isonicotinoyl)-N-methylhydrazinecarboxamide | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NNC(=O)NC)C=CN=C1 | C14H13FIN5O2
